US07153860B2
a) 5-(2–Chloro-6-fluorophenyl)-2-methylthio-4,6(1H,5H)-pyrimidinedione
60.0 g (208 mmol) of ethyl 2-(2-chloro-6-fluorophenyl)malonate and 19.0 g (249 mmol) of thiourea were heated for 2.5 hours at 150° C. in 77 g (416 mmol) of n-tributylamine. Most of the ethanol formed was distilled off. 180 ml of an aqueous solution of 24.9 g (623 mmol) of NaOH were added to the reaction mixture once it had cooled down. After the aqueous phase had been treated with 50 ml of cyclohexane and stirred for approximately 30 minutes, it was separated off, treated with 35.4 g (142 mmol) of methyl iodide and stirred for approximately 16 hours at approximately 20 to 25° C. After acidification with dilute HCl solution and stirring for approximately 30 minutes, the precipitate was filtered off washing with water and drying gave 16.7 g of the title compound as white crystals of m.p. 250° C. (decomp.).

reactant | ethyl 2-(2-chloro-6-fluorophenyl)malonate | 208 mmol, 60.0 g | ClC1=C(C(=CC=C1)F)C(C(=O)OCC)C(=O)[O-]
reactant | thiourea | 249 mmol, 19.0 g | NC(=S)N | CH4N2S
reactant | NaOH | 623 mmol, 24.9 g | [OH-].[Na+]
reactant | methyl iodide | 142 mmol, 35.4 g | CI | CH3I
reactant | HCl | Cl | ClH
solvent | cyclohexane | 50 ml | C1CCCCC1 | C6H12
solvent | ethanol | C(C)O | C2H6O
product | 5-(2–Chloro-6-fluorophenyl)-2-methylthio-4,6(1H,5H)-pyrimidinedione | 16.7 g | ClC1=C(C(=CC=C1)F)C1C(N=C(NC1=O)SC)=O | C11H8ClFN2O2S
